US08034940B2
A 1.6 M hexane solution of n-butyllithium (39.8 mL, 63.6 mmol) was added to a solution of diisopropylamine (9.45 mL, 66.3 mmol) in THF (100 mL) at −78° C. over 10 min. The resultant solution was stirred at 0° C. for 30 min and cooled to −78° C. Acetonitrile (3.32 mL, 63.6 mmol) dropwise. The mixture was stirred at −78° C. for 30 min and then added a solution of 4-chloro-2-fluorobenzoate (5.00 g, 26.5 mmol) in THF (5 mL) at −78° C. dropwise. After stirring for 1 h at −78° C., the reaction mixture was quenched with brine (20 mL), warmed to room temperature and adjusted to pH 1-2 with 1N aqueous HCl. Following addition of ethyl acetate (400 mL), the mixture was washed with water (40 mL), brine (40 mL), dried (MgSO4) and concentrated to provide 3-(4-chloro-2-fluorophenyl)-3-oxopropanenitrile as tan solid (5.10 g, 97%). MS (ES+) m/z: 198 (M+H).

reactant | n-butyllithium | 63.6 mmol, 39.8 mL | C(CCC)[Li]
reactant | diisopropylamine | 66.3 mmol, 9.45 mL | C(C)(C)NC(C)C | C6H15N
reactant | Acetonitrile | 63.6 mmol, 3.32 mL | C(C)#N | C2H3N
reactant | 4-chloro-2-fluorobenzoate | 26.5 mmol, 5.00 g | ClC1=CC(=C(C(=O)[O-])C=C1)F
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | 3-(4-chloro-2-fluorophenyl)-3-oxopropanenitrile | 5.10 g, 97% | ClC1=CC(=C(C=C1)C(CC#N)=O)F | C9H5ClFNO
